US07253286B2
N1-Cyclopropylcarbonyl-N1-[3-(1-ethynyl)-4-(4-{[(4-fluoroanilino)carbonyl]amino}phenoxy)-2-pyridyl]-1-cyclopropanecarboxamide
After adding 57 mg of cyclopropanecarbonyl chloride to a solution of N-(4-{[2-amino-3-(1-ethynyl)-4-pyridyl]oxy}phenyl)-N′-(4-fluorophenyl)urea (100 mg), triethylamine (0.12 ml) and tetrahydrofuran (5 ml) while stirring at room temperature, stirring was continued for 1.5 hours. After adding NH type silica gel to the reaction solution, the solvent was distilled off under reduced pressure, and the reaction product was adsorbed onto the silica gel. The silica gel was charged into a dry column packed with NH type silica gel, and column purification was performed (ethyl acetate) The organic solvent was distilled off under reduced pressure, and methanol and water were added to the residue for solidification to obtain 15 mg of the target substance as a white powder.

reactant | cyclopropanecarbonyl chloride | 57 mg | C1(CC1)C(=O)Cl | C4H5ClO
reactant | N-(4-{[2-amino-3-(1-ethynyl)-4-pyridyl]oxy}phenyl)-N′-(4-fluorophenyl)urea | 100 mg | NC1=NC=CC(=C1C#C)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F | C20H15FN4O2
reactant | triethylamine | 0.12 ml | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N1-Cyclopropylcarbonyl-N1-[3-(1-ethynyl)-4-(4-{[(4-fluoroanilino)carbonyl]amino}phenoxy)-2-pyridyl]-1-cyclopropanecarboxamide | C1(CC1)C(=O)N(C(=O)C1CC1)C1=NC=CC(=C1C#C)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F | C28H23FN4O4
